US04826833
(i) 1,2-bis(5-methylbenzimidazol-2-yl)ethylene glycol
A mixture of 15.0 g (0.10 mole) tartaric acid, 29.32 g (0.24 mole) 3,4-diaminotoluene, 25 ml water, 15 ml ethanol, 25 ml hydrochloric acid (conc.) and 10 ml 85% phosphoric acid was heated at 120° C. for 40 hours, poured into water and the mixture acidified with concentrated hydrochloric acid. After extraction with chloroform and making the aqueous phase alkaline with sodium hydroxide, a precipitate formed and was collected by filtration. The solid was washed with a small amount of acetone and held in vacuo for 18 hours. The residual moisture was removed by azeotropic distillation of its mixture with benzene.

reactant | tartaric acid | 0.10 mole, 15.0 g | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | 3,4-diaminotoluene | 0.24 mole, 29.32 g | NC=1C=C(C=CC1N)C | C7H10N2
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | phosphoric acid | 10 ml | P(O)(O)(O)=O | H3O4P
solvent | water | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 1,2-bis(5-methylbenzimidazol-2-yl)ethylene glycol | CC1=CC2=C(N=C(N2)C(C(C=2NC3=C(N2)C=CC(=C3)C)O)O)C=C1 | C18H18N4O2
